US07994163B2
2-(4-Methyl-2-oxo-pentyl)-isoindole-1,3-dione:
Dissolve 1-bromo-4-methyl-2-pentanone (11.0 g, 61.4 mmol) and potassium phthalimide (11.9 g, 64.5 mmol) in toluene (60 mL) at room temperature under a nitrogen atmosphere. Heat the mixture to 100° C. and stir for 16 h. Cool the resulting slurry to room temperature, filter off solids, and concentrate the filtrate in vacuo to a solid. Purify the residue by chromatography on silica gel (40 g) eluting with hexane/EtOAc (1:1) to obtain the desired intermediate (3.6 g, 24%). MS (ES+) m/z: 246.3 (M+H)+.

reactant | 1-bromo-4-methyl-2-pentanone | 61.4 mmol, 11.0 g | BrCC(CC(C)C)=O | C6H11BrO
reactant | potassium phthalimide | 64.5 mmol, 11.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Methyl-2-oxo-pentyl)-isoindole-1,3-dione | 3.6 g, 24% | CC(CC(CN1C(C2=CC=CC=C2C1=O)=O)=O)C | C14H15NO3
